US07700786B2
Triethylamine (0.13 g, 1.3 mmol) and ethyl isocyanate (0.09 g, 1.3 mmol) were added to a solution of 3-(4-amino-3-trifluoromethylphenyloxy)-5-methylpyrazole (0.30 g, 1.2 mmol) in ethyl acetate (5 ml) at 0° C., and the mixture was allowed to have room temperature gradually and stirred for 6 hours. After completion of the reaction, the reaction mixture was poured into 1N hydrochloric acid (10 ml) and extracted with ethyl acetate (10 ml×2). An organic layer was washed with water (10 ml×2), dried over anhydrous magnesium sulfate and filtered to remove a desiccant, and the solvent was distilled off from the filtrate under reduced pressure. The resultant crude product was purified with a silica gel column (ethyl acetate/hexane=1/15), to give a yellowish solid of N-ethyl-3-(4-amino-3-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide (0.19 g, yield: 50.5%). mp: 102-104° C.; 1H-NMR (CDCl3, TMS, ppm): δ 1.22 (t, J=7.3 Hz, 3H), 2.56 (d, J=0.8 Hz, 3H), 3.37 (dq, J=5.9 and 7.3 Hz, 2H), 4.11 (br s, 2H), 5.61 (q, J=0.8 Hz, 1H), 6.74 (d, J=8.8 Hz, 1H), 6.93 (br s, 1H), 7.14 (dd, J=2.7 and 8.8 Hz, 1H), 7.27 (d, J=2.7 Hz, 1H).

reactant | Triethylamine | 1.3 mmol, 0.13 g | C(C)N(CC)CC | C6H15N
reactant | ethyl isocyanate | 1.3 mmol, 0.09 g | C(C)N=C=O | C3H5NO
reactant | 3-(4-amino-3-trifluoromethylphenyloxy)-5-methylpyrazole | 1.2 mmol, 0.30 g | NC1=C(C=C(C=C1)OC1=NNC(=C1)C)C(F)(F)F | C11H10F3N3O
reactant | hydrochloric acid | 1N, 10 ml | Cl | ClH
solvent | ethyl acetate | 5 ml | C(C)(=O)OCC | C4H8O2
product | N-ethyl-3-(4-amino-3-trifluoromethylphenyloxy)-5-methylpyrazole-1-carboxamide | 0.19 g, yield: 50.5% | C(C)NC(=O)N1N=C(C=C1C)OC1=CC(=C(C=C1)N)C(F)(F)F | C14H15F3N4O2
